US05225421
1-(p-Chlorobenzyl)-α,α-dimethyl-5-isopropyl3-(5-chlorobenzothiazol-2-ylthio)indole-2-propanoic acid
Following the procedure of Example 104, but 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]-hydrazine hydrochloride and methyl 2,2-dimethyl-4-oxo-5-(5-chlorobenzothiazol-2-ylthio)pentanoate as starting materials followed by hydrolysis at reflux gave the title compound, m.p 154°-156°.

reactant | 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]-hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)C(C)C)C=C1
reactant | methyl 2,2-dimethyl-4-oxo-5-(5-chlorobenzothiazol-2-ylthio)pentanoate | CC(C(=O)OC)(CC(CSC=1SC2=C(N1)C=C(C=C2)Cl)=O)C | C15H16ClNO3S2
product | 1-(p-Chlorobenzyl)-α,α-dimethyl-5-isopropyl3-(5-chlorobenzothiazol-2-ylthio)indole-2-propanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(C)C)SC=2SC3=C(N2)C=C(C=C3)Cl)CC(C(=O)O)(C)C)C=C1 | C30H28Cl2N2O2S2
